US06506797B1
(+)-2-ethyl-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]methyl]carbamoyl]phenyl]propanoic acid
(4S)-3-[2-ethyl-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]methyl]carbamoyl]phenyl]propionyl]-4-benzyl-2-oxazolidinone (860 mg, 1.51 mmol) was mixed with 8 ml of mixed solution of tetrahydrofuran with water (4:1 v/v), which was cooled with ice under an atmosphere of argon. Under stirring, 611 ml of 30% aqueous hydrogen peroxide was added over 2 minutes, further 101 mg of lithium hydroxide monohydrate dissolved in 2.7 ml of water was added thereto over 2 minutes. After the mixture was stirred for 1 hour under cooling with ice, sodium sulfite 7-hydrate dissolved in 4 ml of water was added, and the mixture was stirred for 5 minutes at 0° C. The reaction mixture was poured into 5% aqueous solution of hydrochloric acid, which was extracted with ethyl acetate. The extract was washed with brine, then dried over anhydrous magnesium sulfate and concentrated. The residue was crystallized by adding ethyl acetate and n-hexane to obtain 125 mg (20%) of the title compound as colorless prisms.

reactant | (4S)-3-[2-ethyl-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]methyl]carbamoyl]phenyl]propionyl]-4-benzyl-2-oxazolidinone | 1.51 mmol, 860 mg | C(C)C(C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)CC1=CC(=C(C=C1)OC)C(NCC1=CC=C(C=C1)C(F)(F)F)=O | C31H31F3N2O5
reactant | hydrogen peroxide | 611 ml | OO | H2O2
reactant | lithium hydroxide monohydrate | 101 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2.7 ml | O | H2O
solvent | water | 4 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (+)-2-ethyl-3-[4-methoxy-3-[N-[[4-(trifluoromethyl)phenyl]methyl]carbamoyl]phenyl]propanoic acid | 125 mg, 20% | C(C)C(C(=O)O)CC1=CC(=C(C=C1)OC)C(NCC1=CC=C(C=C1)C(F)(F)F)=O | C21H22F3NO4
